US07291635B2
A solution of 3-nitrobenzylamine hydrochloride, (1.89 g, 10.0 mmol) in water (10 mL) is treated with NaHCO3 (840 mg, 10.0 mmol) and sulfamide, (960 mg, 10.0 mmol). The mixture is heated at reflux for 5 h. The cooled mixture is acidified to pH 2 with 1N aqueous HCl and the precipitate is filtered, washed with water and dried under vacuum at 50° C. to afford 3-nitrobenzyl sulfamide as a tan solid: [M−1]−=230.

reactant | 3-nitrobenzylamine hydrochloride | 10.0 mmol, 1.89 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | NaHCO3 | 10.0 mmol, 840 mg | C(=O)(O)[O-].[Na+]
reactant | sulfamide | 10.0 mmol, 960 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | HCl | 1N | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 3-nitrobenzyl sulfamide | [N+](=O)([O-])C=1C=C(CNS(=O)(=O)N)C=CC1 | C7H9N3O4S
